US05157026
Step 1: 6-Chloro-8-propyl-9-(2'-(N-triphenylmethyltetrazole-5-yl)biphen-4-yl)methylpurine
To a stirred suspension of NaH (0.016 g of a 60% dispersion in oil, 0.4 mmol) in dry dimethylformamide (1.5 ml) was added 6-Chloro-8-propylpurine (0.044 g, 0.25 mmol) at room temperature. After 20 minutes, the mixture was cooled to 0° C. and N-triphenylmethyl-5-(4'-bromomethylbiphen-2-yl)tetrazole (0.139 g, 0.25 mmol) was added. The resulting mixture was warmed to room temperature and then stirred at 40° C. for 3 hours. The reaction was cooled, and the content of the flask was poured into ice-water (50 ml) and extracted with ethyl acetate (3×15 ml). The combined organic phase was washed with brine and then dried over anhydrous Na2SO4. Removal of the solvent gave the crude product as a foam which was purified by flash-chromatography on silica-gel using ethyl acetate/hexane (1:3).

reactant | NaH | [H-].[Na+]
reactant | 6-Chloro-8-propylpurine | 0.25 mmol, 0.044 g | ClC1=C2NC(=NC2=NC=N1)CCC | C8H9ClN4
reactant | N-triphenylmethyl-5-(4'-bromomethylbiphen-2-yl)tetrazole | 0.25 mmol, 0.139 g | C1(=CC=CC=C1)C(N1N=NN=C1C1=CC=CC=C1C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 6-Chloro-8-propyl-9-(2'-(N-triphenylmethyltetrazole-5-yl)biphen-4-yl)methylpurine | ClC1=C2N=C(N(C2=NC=N1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C41H33ClN8
